Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
wound infection
 
Major Surgical or Invasive Procedure:
Bedside I&D of L wound abscess 

 
History of Present Illness:
___ otherwise healthy M previously obese s/p bilat excess 
medial thigh skin removal after significant weight loss on ___ 
in ___. Immediate post-op course c/b SSI successfully 
treated with IV abx.  He is not certain of the antibiotics he 
was treated with or the bacteria that was identified. Notably, 
had sutures removed at ___ office in ___ in late 
___. Patient had been doing well since, ambulating freely, 
and even going to the gym recently. Noted F/C/S, and increasing 
pain and erythema at distal aspect of medial left thigh/medial 
knee. Presented to ___, found to have significant redness 
and erythema with fluctuance over posteromedial left knee. Was 
given IV vancomycin and ceftriaxone.

CT of Bilat lower extremities showed a 3cm x2cm superficial 
fluid collection at posteromedial left knee and 1.8cm x 1.3cm 
fluid collection at medial right distal thigh. I+D of left 
medial thigh collection was performed by the ___ surgery 
team in the ___. Due to continued fluctuance, patient was 
transferred to ___ ___ for further evaluation and management.

In the ___, initial VS were 98.1 80 106/67 18 97% RA. 
Labs from OSH ___ showed CBC:  WBC is 13.6, hemoglobin 14.1, 
hematocrit 41, platelets 194.  Basic metabolic profile:  Sodium 
136, potassium 3.5, chloride 95, CO2 27, BUN 13, creatinine 0.8. 
 LFTs within normal limits.
IV vancomycin and ceftriaxone were started in the ___ ___. 
Plastics was consulted  
Decision was made to admit to medicine for further management. 
 
On arrival to the floor, patient reports that he has been 
feeling ill for 5 days. His symptoms began on ___ with 
malaise, low-grade fevers, and diarrhea. The diarrhea lasted 2 
days and self-resolved. He noted a pinkish color to his stool 
that has not recurred. He noticed L leg swelling at his distal 
scar 3 days ago and went to his primary care, who sent him to ___ 
___. He got bedside I&D and was transferred to ___ for 
further management. 

Currently, he endorses some L leg pain. It hurts him to walk or 
bend his knee. He otherwise denies N/V, chest pain/palpitations, 
dizziness, abd pain, numbness or weakness. His diarrhea has not 
recurred in 3 days. 

REVIEW OF SYSTEMS:  
See HPI for pertinent positives and negatives. All other 
10-system review negative in detail.  

 
Past Medical History:
-Bilateral excess medial thigh skin removal after significant 
weight loss ___ 
-Tummy tuck
 
Social History:
___
Family History:
Mom had ovarian & breast CA, HTN, DM, kidney transplant, 
pericardial effusion. Dad and sister are healthy. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS 99.4 116/67 93 18 97%RA 
GENERAL: NAD  
HEENT: AT/NC,  PERRL, anicteric sclera, pink conjunctiva, MMM, 
good dentition, oropharynx clear.   
NECK: nontender supple neck, no LAD 
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended,  nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly. Large lower abd scar 
from tummy tuck.   
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. B/l large thigh scars. R leg scar w/o 
erythema, tenderness, or exudate. L side with distal serious 
fluid draining and raised subQ lesion (likely abscess), tender, 
surrounding erythema.    
NEURO: A&O x 3. Neuro exam grossly normal. 

DISCHARGE PHYSICAL EXAM:  
VS 98.4 ___ 66-71 18 99%RA 
GENERAL: NAD, pleasant  
HEENT: AT/NC.    
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended,  nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly. Large lower abd scar 
from tummy tuck.   
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. B/l large thigh scars. R leg scar w/o 
erythema, tenderness, or exudate. L side with packed wound, 
nontender, minimal surrounding erythema.    
NEURO: A&O x 3. Neuro exam grossly normal. 
 
 
Pertinent Results:
ADMISSION LABS:
___ 07:00AM BLOOD WBC-11.4* RBC-4.12* Hgb-13.1* Hct-38.1* 
MCV-93 MCH-31.8 MCHC-34.4 RDW-13.3 RDWSD-45.0 Plt ___
___ 07:00AM BLOOD ___ PTT-34.5 ___
___ 07:00AM BLOOD Glucose-91 UreaN-13 Creat-0.7 Na-139 
K-4.1 Cl-101 HCO3-30 AnGap-12
___ 07:00AM BLOOD Glucose-91 UreaN-13 Creat-0.7 Na-139 
K-4.1 Cl-101 HCO3-30 AnGap-12
___ 07:00AM BLOOD Calcium-9.0 Phos-3.5 Mg-2.2

DISCHARGE LABS:
___ 07:29AM BLOOD WBC-5.3 RBC-4.12* Hgb-13.0* Hct-38.1* 
MCV-93 MCH-31.6 MCHC-34.1 RDW-13.2 RDWSD-44.4 Plt ___
___ 07:29AM BLOOD Glucose-95 UreaN-9 Creat-0.8 Na-139 K-4.2 
Cl-103 HCO3-27 AnGap-13
___ 07:29AM BLOOD Calcium-9.4 Phos-4.5 Mg-2.1

IMAGING:  
CT Lower Extremity ___:
1.  Fat stranding and skin thickening about the medial left knee 
extending to the mid thigh and mid anterior calf compatible with 
cellulitis.  Low density 3.1 x 2.0 cm collection medially at the 
level of the knee representing abscess vs epidermal inclusion 
cyst.
2.  Milder degree of fat stranding and skin thickening on the 
right, also at the level of the knee with similar medial low 
density collection measuring 1.8 x 1.3 cm also representing 
abscess or epidermal inclusion cyst.  Coincidental epidermal 
inclusion cyst is favored given low density of both above 
lesions, fairly small amount of surrounding inflammation on the 
right and relative lack of rim enhancement.
3.  No evidence of necrotizing fasciitis.

 
Brief Hospital Course:
Mr. ___ is ___ with a history of obesity, s/p bilat excess 
medial thigh skin removal after significant weight loss on ___ 
in ___ complicated by post-operative wound infection. He 
presented with bilateral ___ cellulitis and L thigh 
abscess.  

# Left Thigh Abscess: Drained at bedside. See management of 
cellulitis, below. 

# Cellulitis: Patient presented with erythema, tenderness, and 
discharge at his left distal wound with mild erythema 
surrounding right incision. CT scan from OSH showed bilateral 
fat stranding and low-density collections. Plastic surgery 
service drained left abscess at bedside and the patient was 
treated with Vancomycin/Ceftriaxone, with improvement in 
symptoms. He was switched to 5 additional days of 
Bactrim/augmentin on discharge.

# Diarrhea: The patient has been having watery diarrhea in the 
setting of recent anitbiotic use. C diff was negative. There was 
also a report of "pinkish" diarrhea three days prior to 
admission that should be worked up as an outpatient if it 
recurs. He was not anemic on presentation and did not have any 
frank blood in stools or black stools. 

CODE: Full (confirmed) 
EMERGENCY CONTACT HCP: ___ (sister) ___

=====================================
TRANSITIONAL ISSUES:
-Activity: WBAT Bilateral ___ 
-Antibiotics: Bactrim/augmentin for 5 additional days
-Perform dressing changes 3 times a day until follow up in 
clinic. 
-Patient continues to have diarrhea. Chronic intermittent 
problem for him. ___ benefit from further outpatient work-up. 

 
Medications on Admission:
None
 
Discharge Medications:
1. Amoxicillin-Clavulanic Acid ___ mg PO Q8H 
RX *amoxicillin-pot clavulanate 500 mg-125 mg 1 tablet(s) by 
mouth every eight (8) hours Disp #*16 Tablet Refills:*0
2. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*11 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Wound infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were seen at ___ for your wound infection. This was 
drained by the Plastic Surgery team and you were treated with 
antibiotics. Please follow-up with the Plastic Surgery team as 
an outpatient and continue to take the full course of 
antibiotic. 

To care for your wound, please do the following: 
-Monitor wound site for worsening redness or purulent discharge
-Perform dressing changes 3 times a day until follow up in 
clinic. 
-Use moist gauze for dressing changes and dry gauze over wound 
site. 
-Please call office if redness worsens, if have continued 
temperatures above 101.4F 

It was really a pleasure taking care of you. Enjoy your weekend!

Best wishes, 

Your ___ team

 
Followup Instructions:
___